US08420629B2
Step 4. 1-[(1-methylcyclopropyl)sulfonyl]azetidin-3-ol
A solution of 1-[(1-methylcyclopropyl)sulfonyl]-3-[(triethylsilyl)oxy]azetidine (0.125 g, 0.41 mmol) in tetrahydrofuran (3 mL), water (1 mL) and acetic acid (1 mL) was stirred at room temperature for four hours. The mixture was neutralized by pouring into a solution of sodium bicarbonate. The product was extracted with ethyl acetate, the extracts were washed with brine, dried over sodium sulfate, decanted and concentrated to afford product, used without further purification (64 mg, 82%).

reactant | 1-[(1-methylcyclopropyl)sulfonyl]-3-[(triethylsilyl)oxy]azetidine | 0.41 mmol, 0.125 g | CC1(CC1)S(=O)(=O)N1CC(C1)O[Si](CC)(CC)CC | C13H27NO3SSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | water | 1 mL | O | H2O
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 1-[(1-methylcyclopropyl)sulfonyl]azetidin-3-ol | CC1(CC1)S(=O)(=O)N1CC(C1)O | C7H13NO3S
